US08017607B2
A mixture of 4-cyano-2-methoxy-benzoic acid methyl ester (1.01 g, 5.28 mmol) in methanol (50 mL) was added to Raney-nickel 2800 slurry in water (a few grams washed with methanol to remove the water, Aldrich) and it was put under a 50 psi hydrogen atmosphere for 16 hrs. The mixture was filtered through Celite under an argon atmosphere and concentrated and then purified by flash chromatography to give 4-aminomethyl-2-methoxy-benzoic acid methyl ester (385.7 mg, 34.7%).

reactant | 4-cyano-2-methoxy-benzoic acid methyl ester | 5.28 mmol, 1.01 g | COC(C1=C(C=C(C=C1)C#N)OC)=O | C10H9NO3
solvent | methanol | 50 mL | CO | CH4O
solvent | water | O | H2O
catalyst | Raney-nickel | [Ni] | Ni
product | 4-aminomethyl-2-methoxy-benzoic acid methyl ester | 385.7 mg, 34.7% | COC(C1=C(C=C(C=C1)CN)OC)=O | C10H13NO3
